US07173058B2
To the THF solution (100 ml) of 4-difluoromethoxy-3-ethoxy-benzaldehyde (21.0 g, 0.1 mol) was added dropwise LiN(TMS)2 (1M in THF, 100 ml, 0.1 mol) at 0° C. After 15 minutes of stirring, BF3.THF complex (22 ml, 0.2 mol) was added to the reaction mixture (1). To the THF solution (100 ml) of methyl sulfone (9.4 g, 0.1 mol) was added LiN(TMS)2 (1M in THF, 100 ml, 0.1 mol) at −78° C. The mixture (2) was stirred at −78° C. for 1 hour. Mixture (1) was added to the mixture (2) via a 2-way needle. The mixture was allowed to warm to room temperature and stirred at room temperature for 18 hours. MeOH (20 ml) was added to quench the reaction. The mixture was concentrated in vacuo until there was one-fourth left. To the resulted mixture was added HCl aqueous solution (20%, 150 ml) followed by concentrated HCl until pH=3. The mixture was extracted with ether (100 ml×3). The aqueous layer was neutralized with NaOH (15 M) till pH=8. The mixture was extracted with methylene chloride (100 ml×3). The combined organic layer was washed with water (100 ml×2), brine (100 ml), dried over Na2SO4 and concentrated in vacuo. The resulted oil was purified by silica gel column to give 1-(4-difluoromethoxy-3-ethoxy-phenyl)-2-methanesulfonyl-ethylamine (2.8 g, 10%) as yellow oil. 1H NMR (CDCl3) δ 1.41 (t, J=6.8 Hz, 3H, OCH2CH3), 3.30–3.40 (m, 2H, CH2SO2), 3.45 (s, 3H, CH3), 4.58–4.64 (m, 1H, CHN), 6.53 (t, J=75 Hz, 1H, CF2H), 6.84–7.12 (m, 3H, Ar).

reactant | 4-difluoromethoxy-3-ethoxy-benzaldehyde | 0.1 mol, 21.0 g | FC(OC1=C(C=C(C=O)C=C1)OCC)F | C10H10F2O3
reactant | LiN(TMS)2 | 0.1 mol, 1M, 100 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | BF3 | B(F)(F)F | BF3
reactant | methyl sulfone | 0.1 mol, 9.4 g | CS(=O)(=O)C | C2H6O2S
reactant | LiN(TMS)2 | 0.1 mol, 1M, 100 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
solvent | MeOH | 20 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(4-difluoromethoxy-3-ethoxy-phenyl)-2-methanesulfonyl-ethylamine | 2.8 g, 10% | FC(OC1=C(C=C(C=C1)C(CS(=O)(=O)C)N)OCC)F | C12H17F2NO4S
